US07157492B2
2-[(2-Bromo-5-methoxybenzyl)oxy]-7-methoxynaphthalene
To a solution of 7-methoxy-2-naphthol (26.92 g, 0.15 moles), 2-bromo-5-methoxybenzyl alcohol (33.58 g, 0.15 moles), and triphenylphosphine (39.3 g, 0.15 moles) in anhydrous THF (500 mls) was added a solution of DEAD (26.10 g, 0.15 moles) in THF (100 mL) dropwise over 0.5 hr. The solution was stirred at room temperature overnight and, upon evaporation of half the volume, the product precipitated in good purity. The solid was filtered and rinsed with THF, then dried to yield 32.96 g (59%) of a white solid: mp 156–157° C.; 1H NMR (DMSO-d6): δ 3.77 (3H, s), 3.86 (3H, s), 5.18 (2H, s), 6.92 (1H, dd, J=3.2 Hz, J=8.7 Hz), 7.00 (1H, dd, J=2.4 Hz, J=8.7 Hz), 7.09 (1H, dd, J=2.4 Hz, J=8.9 Hz), 7.22 (1H, d, J=3.2 Hz), 7.25 (1H, d, J=2.4 Hz), 7.35 (1H, d, J=2.4 Hz), 7.59 (1H, d, J=8.7 Hz), 7.74 (1H, d, J=8.7 Hz), 7.76(1H, d, J=8.7 Hz); MS m/z 373/375 ([M+H]+).

reactant | 7-methoxy-2-naphthol | 0.15 moles, 26.92 g | COC1=CC=C2C=CC(=CC2=C1)O | C11H10O2
reactant | 2-bromo-5-methoxybenzyl alcohol | 0.15 moles, 33.58 g | BrC1=C(CO)C=C(C=C1)OC | C8H9BrO2
reactant | triphenylphosphine | 0.15 moles, 39.3 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DEAD | 0.15 moles, 26.10 g | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | THF | 500 mls | C1CCOC1 | C4H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 2-[(2-Bromo-5-methoxybenzyl)oxy]-7-methoxynaphthalene | 32.96 g, 59% | BrC1=C(COC2=CC3=CC(=CC=C3C=C2)OC)C=C(C=C1)OC | C19H17BrO3
